US07446211B2
5-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile (14.5 kg), Lawesson's Reagent (12.1 kg, 1.16 eq.), DME (215 kg), and acetonitrile (8.96 kg) were combined and heated to reflux for at least 4 hours at less than 16 hours to form unpurified 5-(4,4-dimethyl-2-thioxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile. The mixture was cooled to 18 to 28° C., quenched with water (276 kg), cooled to 10 to 20° C., stirred for at least 30 minutes, and the resulting slurry collected via filtration.

reactant | 5-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile | 14.5 kg | CC1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2)C#N)=O)C | C15H13N3O2
reactant | Lawesson's Reagent | 12.1 kg, 1.16 eq. | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | DME | 215 kg | COCCOC | C4H10O2
solvent | acetonitrile | 8.96 kg | C(C)#N | C2H3N
product | 5-(4,4-dimethyl-2-thioxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile | CC1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2)C#N)=S)C | C15H13N3OS
